US07625886B2
(R)-2-[4-((S)-2-carboxy-pyrrolidin-1-yl)-piperid in-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl methyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 17 mg (0.71 mmol) LiOH in 3 mL water was added to a solution of 200 mg (0.29 mmol) (R)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 9 mL THF and the reaction mixture was stirred for 66 h at RT. The solvents were eliminated in a nitrogen current and the residue was purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | LiOH | 0.71 mmol, 17 mg | [Li+].[OH-]
reactant | (R)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.29 mmol, 200 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C37H46N6O8
solvent | water | 3 mL | O | H2O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | (R)-2-[4-((S)-2-carboxy-pyrrolidin-1-yl)-piperid in-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl methyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C36H44N6O8
